US07645771B2
A mixture of 1-(8-{2-[4-(1,3-benzodioxol-5-yl)piperidin-4-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole dihydrochloride (0.40 g, 0.78 mmol), triethylamine (0.35 mL, 2.5 mmol) and 4-chloro-3-sulfamoylbenzoic acid (184 mg, 0.78 mmol) in dimethylformamide (2.5 mL) was treated with O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (327 mg, 0.86 mmol) and the resulting mixture was stirred for 1 h at rt. The mixture was diluted with water and the resulting precipitate was collected, washed with saturated sodium bicarbonate solution and water, dried and purified by chromatography on silica gel eluting with a chloroform:methanol:ammonium hydroxide 400:15:1 to 200:15:1 gradient to give 5-[(4-(1,3-benzodioxol-5-yl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidin-1-yl) carbonyl]-2-chlorobenzenesulfonamide as a solid (0.09 g, 17%). 1H NMR (400 MHz, CD3OD) δ 8.08 (s, 1H), 7.67 (m, 1H), 7.59 (m, 1H), 7.51 (m, 1H), 7.41 (m, 1H), 7.17 (m, 2H), 6.94 (s, 1H), 6.81-6.86 (m, 2H), 5.93 (s, 2H), 4.74 (m, 1H), 4.11 (m, 1H), 3.52 (m, 1H), 3.30 (m, 4H), 2.52 (s, 3H), 2.44 (m, 2H), 2.39 (m, 1H), 2.18 (m, 1H), 1.80-2.04 (m, 12H), 1.70 (m, 2H). HRMS C36H40ClN5O5 m/z 690.2517 (M+H)Cal., 690.2538 (M+H)Obs..

reactant | 1-(8-{2-[4-(1,3-benzodioxol-5-yl)piperidin-4-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole dihydrochloride | 0.78 mmol, 0.40 g | Cl.Cl.O1COC2=C1C=CC(=C2)C2(CCNCC2)CCN2C1CC(CC2CC1)N1C(=NC2=C1C=CC=C2)C
reactant | triethylamine | 2.5 mmol, 0.35 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-3-sulfamoylbenzoic acid | 0.78 mmol, 184 mg | ClC1=C(C=C(C(=O)O)C=C1)S(N)(=O)=O | C7H6ClNO4S
reactant | O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 0.86 mmol, 327 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-[(4-(1,3-benzodioxol-5-yl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidin-1-yl) carbonyl]-2-chlorobenzenesulfonamide | 0.09 g, 17% | O1COC2=C1C=CC(=C2)C2(CCN(CC2)C(=O)C=2C=CC(=C(C2)S(=O)(=O)N)Cl)CCN2[C@H]1CC(C[C@@H]2CC1)N1C(=NC2=C1C=CC=C2)C | C36H40ClN5O5S
